US05721366
3(S)-[[[[1-[4-(aminoiminomethyl)phenyl]-2-oxo-3-pyrrolidinyl]amino]carbonyl]amino]-4-pentenoic acid;
3-[[[[1-[4-(aminoiminomethyl)phenyl]-2-oxo-3-pyrrolidinyl]amino]carbonyl]amino]propanoic acid, trifluoroacetate;

reactant | 3-[[[[1-[4-(aminoiminomethyl)phenyl]-2-oxo-3-pyrrolidinyl]amino]carbonyl]amino]propanoic acid | NN=CC1=CC=C(C=C1)N1C(C(CC1)NC(=O)NCCC(=O)O)=O | C15H19N5O4
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
product | 3(S)-[[[[1-[4-(aminoiminomethyl)phenyl]-2-oxo-3-pyrrolidinyl]amino]carbonyl]amino]-4-pentenoic acid | NN=CC1=CC=C(C=C1)N1C(C(CC1)NC(=O)N[C@@H](CC(=O)O)C=C)=O | C17H21N5O4
